US07166623B2
2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid (11.3 Mg, 0.034 mmol), HOBT (6.0 mg, 0.044 mmol), 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (8.0 mg, 0.042 mmol) and isobutylamine (0.34 mmol) were mixed in DMF (0.7 ml) and the reaction left at room temperature for 18 h. The DMF was evaporated under vacuum and the residue partitioned between DCM (0.4 ml) and water (0.4 ml). The organic phase was washed with aqueous sodium hydroxide (0.5M, 0.2 ml) and the DCM evaporated under vacuum. The residue was purified by mass directed HPLC to give N-(isobutyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide.

reactant | 2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | 0.034 mmol | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | HOBT | 0.044 mmol, 6.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.042 mmol, 8.0 mg | Cl.CN(CCCN=C=NCC)C
reactant | isobutylamine | 0.34 mmol | C(C(C)C)N | C4H11N
solvent | DMF | 0.7 ml | CN(C)C=O | C3H7NO
product | N-(isobutyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | C(C(C)C)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C | C21H23N3O2
